US03969402
A solution of sodium nitrite (12.0 g.) in water (40 ml.) was added to a stirred solution of 4-acetyl-2-amino-4'-fluorobiphenyl (36.6 g.) in 5N sulphuric acid (480 ml.), whilst maintaining the temperature of the reaction mixture at 0° - 5°C. The reaction mixture was stirred at 0° - 5°C. for a further 1 hour. The resulting cold solution of diazonium salt was poured slowly into stirred refluxing 5N sulphuric acid (400 ml.). When the addition was complete, refluxing was continued for 0.5 hour. The resulting solution was poured into ice/water, causing the precipitation of a solid which was collected, dried and dissolved in ether. The ethereal solution was extracted with dilute aqueous sodium hydroxide and the extract was acidified to precipitate a product which was extracted into ether. The ethereal extract was washed with water, dried over anhydrous sodium sulphate, and evaporated to give a product which was recrystallized from light petroleum (b.p. 80° - 100°C.) to give the novel intermediate 4-acetyl-4'-fluoro-2-hydroxybiphenyl, m.p. 152° - 154°C. A mixture of this compound (36.5 g.), dimethyl sulphate (25.2 g.) and potassium carbonate (25 g.) in anhydrous acetone (200 ml.) was refluxed with stirring overnight. Acetone was removed by evaporation, the residue poured into water, and the resulting mixture extracted with ether. The ether extract was washed with dilute sodium hydroxide solution, then with water and dried over anhydrous sodium sulphate. Ether was removed by evaporation and the residue was distilled in vacuo to give a product, b.p. 142° - 144°C./0.2 mm. which solidified on cooling. This solid was recrystallized from light petroleum (b.p. 62° - 68°C.) to give the novel intermediate 4-acetyl-4'-fluoro-2-methoxybiphenyl, m.p. 75° - 77°C.

reactant | sodium nitrite | 12.0 g | N(=O)[O-].[Na+]
reactant | 4-acetyl-2-amino-4'-fluorobiphenyl | 36.6 g | C(C)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)F)N | C14H12FNO
solvent | water | 40 ml | O | H2O
solvent | sulphuric acid | 5N, 480 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 5N, 400 ml | S(O)(O)(=O)=O | H2O4S
product | 4-acetyl-4'-fluoro-2-hydroxybiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)F)O | C14H11FO2
